US04722934
2-ethoxy-5-[1-[4-(4-trifluoromethylphenoxy)phenoxy]-ethyl]-1,3,4-thiadiazole
To 10 ml of concentrated sulfuric acid cooled to -5° C. was added, with stirring, 2.0 g of 3-[2-[4-(4-trifluoromethylphenoxy)phenoxy]-propionyl]-thiocarbazic acid-O-ethyl ester gradually. After stirring at the same temperature for 10 minutes, the reaction mixture was poured over 100 g of ice followed by extracting with ethyl acetate. The resulting ethyl acetate layer was washed with water, dried over anhydrous sodium sulfate, and concentrated. The residue was purified by chromatography on silica gel to obtain 1.1 g of the compound No. 5 described in Table 1.

reactant | 3-[2-[4-(4-trifluoromethylphenoxy)phenoxy]-propionyl]-thiocarbazic acid-O-ethyl ester | 2.0 g | C(C)OC(NNC(C(C)OC1=CC=C(C=C1)OC1=CC=C(C=C1)C(F)(F)F)=O)=S | C19H19F3N2O4S
solvent | sulfuric acid | 10 ml | S(O)(O)(=O)=O | H2O4S
product | 2-ethoxy-5-[1-[4-(4-trifluoromethylphenoxy)phenoxy]-ethyl]-1,3,4-thiadiazole | 1.1 g | C(C)OC=1SC(=NN1)C(C)OC1=CC=C(C=C1)OC1=CC=C(C=C1)C(F)(F)F | C19H17F3N2O3S
